US03994890
3-Phenyl-5-methylindazole (4.17 g) was dissolved in dimethylformamide (70 ml) and sodium hydride 50% pure (1.15 g) was added to the solution, followed by stirring it at room temperature for 10 min. To the resulting solution was added dropwise a solution of diethylaminopropyl chloride (3.59 g) in 30 ml of toluene. The mixture was stirred at 70° C for 1 hour and poured into ice-water, and extracted with chloroform. The extract was washed with water, dried over sodium sulfate and concentrated by evaporation. The residue was treated with ether-hydrochloric acid to obtain 4.5 g of 1-diethylaminopropyl-3-phenyl-5-methylindazole hydrochloride (m.p. 127°-129° C).

reactant | 3-Phenyl-5-methylindazole | 4.17 g | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)C | C14H12N2
reactant | sodium hydride | [H-].[Na+]
reactant | diethylaminopropyl chloride | 3.59 g | C(C)N(CC)CCCCl | C7H16ClN
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1-diethylaminopropyl-3-phenyl-5-methylindazole hydrochloride | 4.5 g | Cl.C(C)N(C(CC)C1=C2C(=NNC2=CC=C1C)C1=CC=CC=C1)CC | InChI=1S/C21H27N3.ClH/c1-5-18(24(6-2)7-3)19-15(4)13-14-17-20(19)21(23-22-17)16-11-9-8-10-12-16;/h8-14,18H,5-7H2,1-4H3,(H,22,23);1H
